US07705023B2
(a) 1-Bromo-4-isobutoxybenzene
4-bromophenol (2.4 g, 13.8 mmol), 1-iodo-2-methylpropane (3.45 mL, 20 mmol), sodium hydroxide (0.8 g, 20 mmol) and DMF (2 mL) were allowed to react to yield the sub-title compound (615 mg, 19%).

reactant | 4-bromophenol | 13.8 mmol, 2.4 g | BrC1=CC=C(C=C1)O | C6H5BrO
reactant | 1-iodo-2-methylpropane | 20 mmol, 3.45 mL | ICC(C)C | C4H9I
reactant | sodium hydroxide | 20 mmol, 0.8 g | [OH-].[Na+]
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 1-Bromo-4-isobutoxybenzene | 615 mg, 19% | BrC1=CC=C(C=C1)OCC(C)C | C10H13BrO
